US06011028
2-((2-thienyl)methyl]cyclohexanone
2-carboethoxycyclohexanone, finely powdered potassium carbonate, 2-bromomethyl thiophene, and tetrabutylammonium iodide are reacted by the method of Example 38 to generate the title material.

reactant | 2-carboethoxycyclohexanone | C(=O)(OCC)C1C(CCCC1)=O | C9H14O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl thiophene | BrCC=1SC=CC1 | C5H5BrS
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-((2-thienyl)methyl]cyclohexanone | S1C(=CC=C1)CC1C(CCCC1)=O | C11H14OS
